US08809525B2
5-(4-Fluorophenyl)-1,2,4-triazin-3-amine (2.80 g, 74%) was prepared from 3-(methylsulfonyl)-5-(4-fluorophenyl)-1,2,4-triazine (5.00 g, 19.7 mmol) and 0.5 M ammonia in THF (100 mL, 50.0 mmol) according to the general procedure of Preparation 2.

reactant | 3-(methylsulfonyl)-5-(4-fluorophenyl)-1,2,4-triazine | 19.7 mmol, 5.00 g | CS(=O)(=O)C=1N=NC=C(N1)C1=CC=C(C=C1)F | C10H8FN3O2S
reactant | ammonia | 0.5 M | N | H3N
reactant | THF | 50.0 mmol, 100 mL | C1CCOC1 | C4H8O
product | 5-(4-Fluorophenyl)-1,2,4-triazin-3-amine | 2.80 g, 74% | FC1=CC=C(C=C1)C=1N=C(N=NC1)N | C9H7FN4
